US07504404B2
5-{5-[6-(4-Chloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 6-(4-chloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid (example C.36) (136 mg, 0.5 mmol) and N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine (example B.2) (166 mg, 0.75 mmol) according to general procedure II. Obtained after trituration with water and further purification by crystallization (heptane/diethyl ether) as an off-white solid (160 mg, 70%). MS (ISP) 458.2 [(M+H)+]; mp 263° C.

reactant | 6-(4-chloro-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.5 mmol, 136 mg | ClC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C(=O)O | C14H9ClN2O2
reactant | N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine | 0.75 mmol, 166 mg | ONC(=N)C=1SC(=CC1)S(N)(=O)=O | C5H7N3O3S2
product | 5-{5-[6-(4-Chloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C2=NC(=NO2)C2=CC=C(S2)S(=O)(=O)N | C19H12ClN5O3S2
